US06403586B1
Preparation of 2-Benzyl-4-methoxycarbonyl-6-(4-methoxyphenyl)-2H-pyridazin-3-one
Using 4-methoxycarbonyl-6-(4-methoxyphenyl)-2H-pyridazin-3-one and benzyl bromide as starting materials, the procedures of Example 1 were repeated likewise, whereby the title compound was obtained in a yield of 96.9%.

reactant | 4-methoxycarbonyl-6-(4-methoxyphenyl)-2H-pyridazin-3-one | COC(=O)C=1C(NN=C(C1)C1=CC=C(C=C1)OC)=O | C13H12N2O4
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
product | 2-Benzyl-4-methoxycarbonyl-6-(4-methoxyphenyl)-2H-pyridazin-3-one | yield of 96.9% | C(C1=CC=CC=C1)N1N=C(C=C(C1=O)C(=O)OC)C1=CC=C(C=C1)OC | C20H18N2O4
